US06194425B1
Magnesium sulfate (3 g) and a catalytic amount of 5% platinum on carbon were added to a solution of N4-(2-methylpropyl)-3-nitro[1,5]naphthyridin-4-amine (4.0 g, 16.2 mmol) in ethyl acetate (250 mL). The reaction mixture was reduced on a Parr apparatus at 50 psi (3.5 Kg/cm2) hydrogen for four hours. The reaction mixture was filtered to remove the catalyst and the filtrate was concentrated under vacuum to provide N4-(2-methylpropyl)[1,5]naphthyridin-3,4-diamine as a crude solid.

reactant | Magnesium sulfate | 3 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | N4-(2-methylpropyl)-3-nitro[1,5]naphthyridin-4-amine | 16.2 mmol, 4.0 g | CC(CNC1=C(C=NC2=CC=CN=C12)[N+](=O)[O-])C | C12H14N4O2
reactant | hydrogen | [H][H] | H2
catalyst | platinum on carbon | [Pt] | Pt
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | N4-(2-methylpropyl)[1,5]naphthyridin-3,4-diamine | CC(CNC1=C(C=NC2=CC=CN=C12)N)C | C12H16N4
